US05236952
A mixture of 3.12 g of 2-bromo-3',4'-dihydroxy-5'-nitroacetophenone and 849.3 mg of thioacetamide are heated to boiling under reflux for 18 hours in 40 ml of ethanol. After cooling, the crystals are filtered under suction and recrystallized from methanol/isopropanol. There is obtained 5-(2-methyl-4-thiazolyl)-3-nitropyrocatechol hydrobromide of m.p. 280°-282°.

reactant | 2-bromo-3',4'-dihydroxy-5'-nitroacetophenone | 3.12 g | BrCC(=O)C1=CC(=C(C(=C1)[N+](=O)[O-])O)O | C8H6BrNO5
reactant | thioacetamide | 849.3 mg | C(C)(=S)N | C2H5NS
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 5-(2-methyl-4-thiazolyl)-3-nitropyrocatechol hydrobromide | Br.CC=1SC=C(N1)C1=CC(=C(C(O)=C1)O)[N+](=O)[O-] | InChI=1S/C10H8N2O4S.BrH/c1-5-11-7(4-17-5)6-2-8(12(15)16)10(14)9(13)3-6;/h2-4,13-14H,1H3;1H
